US07741323B2
6-Hydroxy-1-oxo-3-phenyl-1H-indene-2-carboxylate isopropyl amide (7.0 g, 22.78 mmol) was dissolved in tetrahydrofuran:benzene (150 ml:50 ml). Then, hydroxyethylmorpholine (3.59 g, 27.33 mmol) and triphenyl phosphine (7.17 g, 27.33 mmol) were added thereto. When the temperature was adjusted to 0° C., diisopropyl azodicarboxylate (5.53 g, 27.33 mmol) was added dropwise to the mixture followed by stirring for 2 hours at room temperature. The mixture was washed with brine and extracted with ethyl acetate. The separated organic layer was dried over anhydrous magnesium sulfate, concentrated, and the resulting residue was purified by column chromatography to obtain 6-(2-morpholine-4-yl ethoxy)-1-oxo-3-phenyl-1H-indene-2-carboxylate isopropyl amide (9.5 g, yield 99%).

reactant | 6-Hydroxy-1-oxo-3-phenyl-1H-indene-2-carboxylate isopropyl amide | 22.78 mmol, 7.0 g | C(C)(C)[NH-].OC1=CC=C2C(=C(C(C2=C1)=O)C(=O)[O-])C1=CC=CC=C1
reactant | hydroxyethylmorpholine | 27.33 mmol, 3.59 g | OCCN1CCOCC1 | C6H13NO2
reactant | triphenyl phosphine | 27.33 mmol, 7.17 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 27.33 mmol, 5.53 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 6-(2-morpholine-4-yl ethoxy)-1-oxo-3-phenyl-1H-indene-2-carboxylate isopropyl amide | 9.5 g, yield 99% | C(C)(C)[NH-].N1(CCOCC1)CCOC1=CC=C2C(=C(C(C2=C1)=O)C(=O)[O-])C1=CC=CC=C1 | InChI=1S/C22H21NO5.C3H8N/c24-21-18-14-16(28-13-10-23-8-11-27-12-9-23)6-7-17(18)19(20(21)22(25)26)15-4-2-1-3-5-15;1-3(2)4/h1-7,14H,8-13H2,(H,25,26);3-4H,1-2H3/q;-1/p-1
